US06469065B1
12b. 4-[Benzyloxycarbonyl]butanoic Acid
A mixture of glutaric anhydride (11.4 g, 0.1 mol) and benzyl alcohol (11.4 mL, 1.1 equiv.) in toluene (200 mL) was heated at 70° C. for 2 days. Solvent was evaporated at reduced pressure to give the product which was dried under high vacuum and was pure enough to use in the next step. 1H NMR (CDCl3): δ1.96 (t, J=7.2 Hz, 2H), 2.44 (q, J=7.0 Hz, 4H), 5.13 (s, 2H), 7.33 (s, 5H).

reactant | glutaric anhydride | 0.1 mol, 11.4 g | C1(CCCC(=O)O1)=O | C5H6O3
reactant | benzyl alcohol | 11.4 mL, 1.1 equiv. | C(C1=CC=CC=C1)O | C7H8O
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | 4-[Benzyloxycarbonyl]butanoic Acid | C(C1=CC=CC=C1)OC(=O)CCCC(=O)O | C12H14O4
